US04317775
To a solution of 19.8 g (0.15 mol) of 5-ethyl-3-fluorodihydro-2(3H)-furanone dissolved in 500 ml of dry tetrahydrofuran was added at -70° C., 128 ml of a 1.4 M toluene solution of Dibal-H. The solution was stirred at -70° C. for one hour and then added cautiously to ice water. The resulting mixture was adjusted to pH~1 with 200 ml of 1 N hydrochloric acid and then extracted with methylene chloride. The solution was dried (MgSO4) and the solvent removed under reduced pressure to give 20 g of crude product. Distillation afforded 13.13 g of 5-ethyl-3-fluorotetrahydro-2-furanol: bp 45°-46° C. (0.1 mm Hg).

reactant | 5-ethyl-3-fluorodihydro-2(3H)-furanone | 0.15 mol, 19.8 g | C(C)C1CC(C(O1)=O)F | C6H9FO2
reactant | toluene | 1.4 M | C1(=CC=CC=C1)C | C7H8
reactant | Dibal-H | CC(C)C[Al]CC(C)C
reactant | hydrochloric acid | 1 N, 200 ml | Cl | ClH
solvent | tetrahydrofuran | 500 ml | O1CCCC1 | C4H8O
product | 5-ethyl-3-fluorotetrahydro-2-furanol | 13.13 g | C(C)C1CC(C(O1)O)F | C6H11FO2
